Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lisinopril / Pineapple
 
Attending: ___.
 
Chief Complaint:
Hypotension, Clogged NJ tube
 
Major Surgical or Invasive Procedure:
___ tube replacement 
 
History of Present Illness:
Mr. ___ is a ___ ___ w/ Autoimmune Pancreatitis 
recently receiving Nasojejunal feedings who presented to ED with 
hypotension and clogged NJ Tube.
Family unable to unclog with non-invasive measures. He has been 
unable to provide feeds for 2 days prior to admission. Typically 
runs feeds from 6pm until noon the next day.
At home, patient having soft pressures in 90's systolic w/ 
baseline over 100. In ED, was briefly hypotensive to ___. No 
dizziness. Given 1.5L fluids which improved pressure. Last BM 
was day of admission.
In ED, patient seen by Surgery who thought "This should be dealt 
with by medical/GI services. I tried trouble shooting as well 
but tube definitely clogged. No surgical issues. Discussed with 
chief resident, who was in contact with ___ ___
Initial vitals: pain ___ 97.0 HR 86 91/62 100% on RA 
 
Past Medical History:
- DM reportedly Type II: dx ___
- Autoimmune Pancreatitis: On prednisone, ___ for feedings 
___
- Hypertension
- s/p Colectomy
- s/p Appendectomy 
 
Social History:
___
Family History:
other HTN & CVA. No fam hx of pancreatic pathology or DM. 
 
Physical Exam:
ADMISSION:
VS: 97.9 103/66 HR 66 sat 100% on RA
Gen: NAD
HEENT: clear OP, NJ tube in place
CV: NR, RR, no murmur
Pulm: CTAB, nonlabored
Abd: soft, NT, ND
GU: no Foley
Ext: no edema
Skin: no lesions noted
Neuro: no gross deficits, moves all ext, alert
Psych: appropriate affect 

DISCHARGE:
Vitals- 97.9 101/65 74 18 100RA
General- Alert, oriented, no acute distress
HEENT- Sclera anicteric, MMM, oropharynx clear
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
ronchi
CV- Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
well healed midline scare
GU- no foley
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro- CNs2-12 intact, motor function grossly normal 
 
Pertinent Results:
ADMISSION:
___ 06:40PM   PLT COUNT-231
___ 06:40PM   NEUTS-85.7* LYMPHS-9.4* MONOS-3.9 EOS-0.6 
BASOS-0.4
___ 06:40PM   WBC-10.4 RBC-4.05* HGB-12.6* HCT-36.8* MCV-91 
MCH-31.1 MCHC-34.3 RDW-13.8
___ 06:40PM   ALBUMIN-3.7
___ 06:40PM   LIPASE-34
___ 06:40PM   ALT(SGPT)-26 AST(SGOT)-17 ALK PHOS-74 TOT 
BILI-1.1
___ 06:40PM   GLUCOSE-134* UREA N-23* CREAT-0.8 SODIUM-134 
POTASSIUM-4.5 CHLORIDE-98 TOTAL CO2-28 ANION GAP-13
___ 06:51PM   LACTATE-2.0

DISCHARGE:
___ 06:45AM BLOOD WBC-5.1# RBC-3.52* Hgb-11.2* Hct-31.9* 
MCV-91 MCH-31.8 MCHC-35.1* RDW-13.8 Plt ___
___ 06:45AM BLOOD Glucose-90 UreaN-19 Creat-0.7 Na-134 
K-3.7 Cl-101 HCO3-26 AnGap-11
___:45AM BLOOD Calcium-7.7* Phos-2.9 Mg-2.0

___ REPORT:
The patient presented with a nasogastric feeding tube that was 
confirmed by
fluoroscopy to be positioned in the ___ portion of the duodenum. 
 Despite
multiple attempts, the tube was unable to be on clot and 
subsequently was
removed.  The right nares was anesthetized with lidocaine jelly. 
 Under
fluoroscopic guidance ___ feeding tube was 
advanced post
pyloricly using a glidewire.  10 cc of Optiray contrast was used 
to confirm
post pyloric placement.  The tube was then secured to the 
patient's nose and phase with tape.  There were no immediate 
postprocedure complications.  
 
Brief Hospital Course:
Mr. ___ is a ___ ___ w/ Autoimmune Pancreatitis 
recently receiving Nasojejunal feedings who presented to ED with 
hypotension and clogged NJ Tube.

# Clogged NJ Tube: Placed initally on ___ by ___ 
attempted to de-clog the tube, which was unsuccessful then had a 
successful placement of ___ feeding tube into the 
___ portion of the duodenum. The NJ tube was bridled on the 
floor prior to discharge. 

# Hypotension: At home, the patient stated he was having soft 
pressures in 90's systolic with his baseline normally over 100. 
In the ED, he was briefly hypotensive to the ___, but was 
asymptomatic at that time. He was given 1.5L fluids which 
improved pressure his pressure. There was no signs or symptoms 
of infection ___ during admission. His home losartan was held

# Autoimmune Pancreatitis: On prednisone, NJ tube placed for 
feedings ___ to maximize pancreatic rest and resolution of 
inflammation. Recent CT showed there was a solid lesion in the 
pancreatic head which appeared to involve the SMV. Currently not 
believed to be due to malignancy. Continue home Prednisone 40mg 
daily

# DM reportedly Type II, well-controlled:On metformin, lantus 
and sliding scale. No known complications. HgbA1c 6.4% in ___. Held Metformin while inpatient. Held Lantus until 
tubefeeds were restarted.

# Hypertension: Recent BP's 90-100's systolic prior to 
admission.
-Home hypertensives were held

TRANSITIONAL ISSUES:
His outpatient antihypertensive regimen should be evaluated. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN XR (Glucophage XR) ___ mg PO DAILY 
2. Losartan Potassium 50 mg PO DAILY 
3. PredniSONE 40 mg PO DAILY 
4. Glargine 14 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Medications:
1. PredniSONE 40 mg PO DAILY 
2. MetFORMIN XR (Glucophage XR) ___ mg PO DAILY 
3. Glargine 14 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: ___ tube obstruction

Secondary Diagnosis: Autoimmune pancreatitis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

You came to the hospital because your NJ (nasojejunal) tube was 
clogged. You were also found to have low blood pressure in the 
emergency room likely because you missed you feeds for a couple 
of days. You were given some fluids and your blood pressure 
improved. You had your NJ tube replaced by interventional 
radiology. If you have any problems with your NJ tube you should 
call your doctor. You should resume your normal feeds via the ___ 
tube tonight.
 
Followup Instructions:
___